US05200420
Methyl 3-benzoylamino-2-hydroxy-benzoate
20 mmol of methyl 3-amino-2-hydroxy-benzoate were stirred at room temperature in toluene with 20 mmol of benzoyl chloride for 4 hours with the addition of dimethylaniline, the mixture was concentrated and the residue was recrystallized from EtOH. M.p.: 105° C.

reactant | methyl 3-amino-2-hydroxy-benzoate | 20 mmol | NC=1C(=C(C(=O)OC)C=CC1)O | C8H9NO3
reactant | benzoyl chloride | 20 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-benzoylamino-2-hydroxy-benzoate | C(C1=CC=CC=C1)(=O)NC=1C(=C(C(=O)OC)C=CC1)O | C15H13NO4
